US07737149B2
N-[5-(2-Benzo[1,3]dioxol-5-ylethyl)-2H-pyrazol-3-yl]-4-(4-methylpiperazin-1-yl)benzamide
To a stirred solution of tert-butyl 5-amino-3-(2-benzo[1,3]dioxol-5-ylethyl)pyrazole-1-carboxylate (229 mg, 0.69 mmol, 1.0 eq) in pyridine (5 ml) at 5° C. was added 4-(4-methylpiperazin-1-yl)benzoyl chloride (181 mg, 0.76 mmol, 1.1 eq). The reaction mixture was stirred to 60° C. for 24 h. After this time, the mixture was concentrated and redissolved in DCM (10 ml). Trifluoroacetic acid (464 μl, 6.25 mmol, 8.25 eq) was added and the reaction mixture stirred for 2 h at 25° C. The reaction mixture was then concentrated. The crude product was purified by reverse-phase prep. HPLC (basic) using a 30-50% gradient of acetonitrile in water containing 1% ammonium hydroxide solution. The clean fractions were combined and evaporated to afford the title compound as a white solid. (12 mg, 4%); 1H NMR (300.132 MHz, DMSO) δ 2.28 (s, 3H), 2.49 (t, 2H), 2.89 (s, 2H), 3.31-3.37 (m, 8H), 6.01 (s, 2H), 6.43 (s, 1H), 6.74 (d, 1H), 6.86 (d, 2H), 7.01 (d, 2H), 7.94 (d, 2H), 10.36 (s, 1H), 12.11 (s, 1H); MS: m/z 434 (MH+).

reactant | tert-butyl 5-amino-3-(2-benzo[1,3]dioxol-5-ylethyl)pyrazole-1-carboxylate | 0.69 mmol, 229 mg, 1.0 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC2=C(OCO2)C=C1 | C17H21N3O4
reactant | 4-(4-methylpiperazin-1-yl)benzoyl chloride | 0.76 mmol, 181 mg, 1.1 eq | CN1CCN(CC1)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClN2O
reactant | Trifluoroacetic acid | 6.25 mmol, 464 μl, 8.25 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(2-Benzo[1,3]dioxol-5-ylethyl)-2H-pyrazol-3-yl]-4-(4-methylpiperazin-1-yl)benzamide | O1COC2=C1C=CC(=C2)CCC=2C=C(NN2)NC(C2=CC=C(C=C2)N2CCN(CC2)C)=O | C24H27N5O3
